US04315861
3.35 g (0.025 moles) of 2,3-dihydro-2,2-dimethyl-benzofuran-7-ol are reacted with 6 g (0.025 moles) of N-methylcarbamoyl-benzoic acid sulfimide in 15 ml of acetone, in the presence of 2.56 g (0.025 moles) of triethyl amine, at 50° C. for 15 minutes. The reaction mixture is then cooled to room temperature, diluted with 100 ml of water; the precipitate is filtered off, washed with water and dried. 3.1 g of 2,3-dihydro-2,2-dimethyl-benzofurane-7-yl methyl-carbamate are obtained, melting at 150° to 152° C. Benzoic acid sulfimide can be recovered by precipitation from the mother liquor with an acid.

reactant | 2,3-dihydro-2,2-dimethyl-benzofuran-7-ol | 0.025 moles, 3.35 g | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | triethyl amine | 0.025 moles, 2.56 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 2,3-dihydro-2,2-dimethyl-benzofurane-7-yl methyl-carbamate | 3.1 g | CNC(OC1=CC=CC=2CC(OC21)(C)C)=O | C12H15NO3
